US06291530B1
For example, 5-bromo3-hydroxy-2 (1H)-pyridinone is protected as the 3-t-butyloxycarbonyl derivative (by treatment with di-t-butyl dicarbonate) and treated with e.g. an appropriately substituted benzyl bromide in the presence of silver carbonate in an inert solvent such as toluene. The resulting 2-benzyloxy substituted derivative is then reacted with cuprous cyanide in an inert solvent such as DMF at elevated temperature to yield 6-benzyloxy-5-hydroxynicotinonitrile. Condensation with a Grignard reagent (e.g. methylmagnesium bromide) yields 6-benzyloxy-5-hydroxy-3-acetylpyridine which is further reacted, with e.g. ethyl bromoacetate, to give the starting material for the Horner-Emmons condensation of process (a).

reactant | 5-bromo3-hydroxy-2 (1H)-pyridinone | BrC=1C=C(C(NC1)=O)O | C5H4BrNO2
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | DMF | CN(C)C=O | C3H7NO
catalyst | silver carbonate | C([O-])([O-])=O.[Ag+2]
product | 6-benzyloxy-5-hydroxynicotinonitrile | C(C1=CC=CC=C1)OC1=NC=C(C#N)C=C1O | C13H10N2O2
